US06028223
To 2-methylthio-2-imidazoline.HI (Aldrich) (10 g, 0.041 mole) and triethylamine (8.3 g, 0.0082 mole) in CH2Cl2 (50 mL) was added ethylchloroformate (Aldrich) (4.5 g, 0.041 mole) dropwise at ice bath temperature. The reaction was stirred overnight at room temperature. The precipitate was filtered and washed with CH2Cl2. The CH2Cl2 from the filtrate was washed with H2O (3×), dried over MgSO4 and removed under vacuum to yield 2-methylthio-2-imidazoline-N-ethylcarbamate (7.1 g) as a clear yellow oil.

reactant | 2-methylthio-2-imidazoline | CSC=1NCCN1 | C4H8N2S
reactant | HI | 0.041 mole, 10 g | I | HI
reactant | triethylamine | 0.0082 mole, 8.3 g | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.041 mole, 4.5 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-methylthio-2-imidazoline N-ethylcarbamate | 7.1 g | CSC=1NCCN1.C(C)NC([O-])=O | InChI=1S/C4H8N2S.C3H7NO2/c1-7-4-5-2-3-6-4;1-2-4-3(5)6/h2-3H2,1H3,(H,5,6);4H,2H2,1H3,(H,5,6)/p-1
